US08871756B2
trans-1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-4-fluoropyrrolidin-3-amine
The title compound was prepared in analogy to Example 78-1 in Scheme 7 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide and tert-butyl (trans-4-fluoropyrrolidin-3-yl)carbamate. MS obsd. (ESI+) [(M+H)+] 441, 1H NMR (400 MHz, CD3OD) δ ppm 7.98 (dd, J=7.71, 1.89 Hz, 1 H), 7.91-7.75 (m, 2 H), 7.62 (t, J=7.45 Hz, 1 H), 7.52 (d, J=8.59 Hz, 1 H), 7.45 (td, J=7.58, 3.28 Hz, 1 H), 7.32 (d, J=8.59 Hz, 1 H), 6.19 (s, 1 H), 5.18 (brs, 2 H), 5.06 (m, 1 H), 4.53 (brs, 2 H), 4.17 (m, 1 H), 4.03 (dd, J=9.98, 5.43 Hz, 1 H), 3.81-3.54 (m, 4 H), 3.45-3.35 (m, 1 H), 2.42 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | tert-butyl (trans-4-fluoropyrrolidin-3-yl)carbamate | F[C@H]1[C@@H](CNC1)NC(OC(C)(C)C)=O | C9H17FN2O2
product | trans-1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-4-fluoropyrrolidin-3-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N2C[C@H]([C@@H](C2)F)N)C)=O | C23H25FN4O2S
